US07560558B2
Compound 87: Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methylbenzoate
4-Chloro-6,7-dimethoxyquinoline (113 mg), ethyl 5-methylsalicylate (632 mg), and 4-dimethylaminopyridine (435 mg) were suspended in o-dichlorobenzene (5 ml), and the suspension was stirred at 160° C. overnight. The reaction solution was cooled to room temperature, and the solvent was then removed therefrom by distillation under the reduced pressure. Chloroform was added to the residue, and the mixture was washed with a 1 N aqueous sodium hydroxide solution and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using chloroform and by thin layer chromatography using acetone-hexane to give the title compound (64.1 mg, yield 35%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 113 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | ethyl 5-methylsalicylate | 632 mg | CC1=CC=C(C(C(=O)OCC)=C1)O | C10H12O3
catalyst | 4-dimethylaminopyridine | 435 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-methylbenzoate | 64.1 mg, yield 35% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=O)OCC)C=C(C=C1)C | C21H21NO5
